US07842696B2
Sulfamic acid (7.35 g, 75.7 mmol) in water (5 mL) was added to a stirred solution of 4-phenoxy benzaldehyde (5 g, 25.23 mmol) in acetone (25 mL) at 4° C. Sodium chlorite (9.13 g, 100.9 mmol) in water (5 mL) was then added slowly resulting in formation of a yellow solid with effervescence. The mixture was stirred at the same temperature for 30 minutes. The reaction mixture was then diluted with cold water and the product extracted with ethyl acetate. The organic layer was washed with saturated brine solution, dried over sodium sulphate and concentrated under reduced pressure to afford 4 g (74% yield) of 4-phenoxy benzoic acid. 1H NMR (DMSO): δ 7.98-7.92 (d, 2H), 7.5-7.44 (t, 2H), 7.28-7.2 (t, 1H), 7.16-7.1 (d, 2H), 7.06-7.0 (d, 2H).

reactant | Sulfamic acid | 75.7 mmol, 7.35 g | S(N)(O)(=O)=O | H3NO3S
reactant | 4-phenoxy benzaldehyde | 25.23 mmol, 5 g | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | Sodium chlorite | 100.9 mmol, 9.13 g | Cl(=O)[O-].[Na+]
solvent | water | 5 mL | O | H2O
solvent | acetone | 25 mL | CC(=O)C | C3H6O
solvent | water | 5 mL | O | H2O
product | 4-phenoxy benzoic acid | 4 g, 74% yield | O(C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O3
